US07109186B2
Compound 865: 4-Hydroxy-1-methyl-5-oxo-2,5-dihydro-1H-pyrrole-3-carboxylic acid [3-(3,4-dichlorophenyl)-propyl]-amide
Reaction of N-[3-(3,4-dichlorophenyl)-propyl]-2-(2,2-dimethyl-5-oxo-[1,3]-dioxolan-4-ylidene)-acetamide (0.432 g, 1.20 mmol) with the paraformaldehyde-methylamine adduct in methanol using a procedure similar to the one described in the preparation of compound 44 (method 44B) gave 0.232 g (56% yield) of the title compound as white crystals; mp 157–158° C. (dec) (ethyl acetate-hexane). 1HNMR 400 MHz (CDCl3) δ (ppm); 1.81 (2H, m, CH2), 2.57 (2H, t, J=7.5 Hz, CH2), 3.05 (3H, s, NCH3), 3.33 (2H, m, NCH2), 3.98 (2H, s, NCH2), 6.95 (1H, broad t, NH), 7.05 (1H, broad dd, aromatic), 7.21 (1H, d, J=2 Hz, aromatic), 7.26 (1H, d, J=8.1 Hz, aromatic), 10.13 (1H, broad, OH). Anal. Calcd for C5H16Cl2N2O3: C, 52.49; H, 4.70; N, 8.16. Found: C, 52.39; H, 4.80; N, 7.89.

reactant | N-[3-(3,4-dichlorophenyl)-propyl]-2-(2,2-dimethyl-5-oxo-[1,3]-dioxolan-4-ylidene)-acetamide | 1.20 mmol, 0.432 g | ClC=1C=C(C=CC1Cl)CCCNC(C=C1OC(OC1=O)(C)C)=O | C16H17Cl2NO4
reactant | paraformaldehyde methylamine | C=O.CN
reactant | methanol | CO | CH4O
product | 4-Hydroxy-1-methyl-5-oxo-2,5-dihydro-1H-pyrrole-3-carboxylic acid [3-(3,4-dichlorophenyl)-propyl]-amide | 0.232 g, 56% yield | ClC=1C=C(C=CC1Cl)CCCNC(=O)C=1CN(C(C1O)=O)C | C15H16Cl2N2O3
